* Library of Switchmode Regulator Controller Chips

*  Copyright Cadence Design Systems, Inc. 2000 All Rights Reserved.
*
*
* $Revision:   1.3  $
* $Author:   HIRASUNA  $
* $Date:   26 Jan 2001 $

*----------------------------------------------------------------------------
* Cadence Design Systems, Inc. would like to acknowledge Sandia National 
* Laboratories for the contribution of their measurement-based models 
* included in this library.
*----------------------------------------------------------------------------


* BEFORE USING ANY OF THE MODELS IT IS IMPORTANT TO READ THE COMMENTS
* PRECEDING EACH MODEL DEFINITION.  ALSO, THERE IS A CIRCUIT EXAMPLE
* FOLLOWING EACH MODEL DEFINITION.

* It will rapidly become obvious that cycle by cycle simulation is
* expensive, so considerable thought should be given before beginning
* a simulation sequence.  A good tip would be to set up intitial conditions
* so that the power supply is close to steady state i.e. output voltage
* is set to regulated value.  With this achieved a few cycles should be
* adequate to check the overall functionality of the loop.  With the loop
* checked out for stability, other start up and response tests can be done
* overnight.  Also, a good idea is to do an open loop check on the power
* stage and filter.

* Data sheets for parts modeled in this library are available from:
*
* Silicon General
* 11861 Western Avenue
* Garden Grove, CA 92641
* (714) 898-8121
*
*$
*** SG1524B ***

* The following model for the 1524B was obtained by consulting the data sheets
* and corresponding with Silicon General.  A number of simplifications were
* made to speed up the model, among these we have:
* (a) replaced th oscillator with ideal voltage sources,
* (b) simplified the output stage (only two bipolars per output driver),
* (c) made the shutdown pin respond to digital stimulus, and
* (d) used digital simulation for the internal logic.

* The impact of that these simplifications must be considered in the context
* of the parameters of the circuit, and the circuit being examined.  The
* above list might change as we get feedback.

.subckt SG1524B ; note: the node numbers are equivalent to chip pinout
+  1    ; - input of error amp
+  2    ; + input of error amp
+  3    ; oscillator output
+  4    ; + current loop sense
+  5    ; - current loop sense
+  7    ; oscillator ramp output, capacitor NOT NECESSARY due to (a) above.
+  8    ; ground
+  9    ; compensation pin
+ 10    ; shutdown pin
+ 11    ; emitter A
+ 12    ; collector A
+ 13    ; collector B
+ 14    ; emitter B
+ 15    ; vin
+ 16    ; vref
+ params:
+ period   = 1ms ; internal clock period
+ deadtime = 1us ; internal clock deadtime

* Pin 6 (RT pin) NOT NECESSARY due to (a) above.

  xdigpwr 8 DPWR DGND DIGIFPWR
  xbufpwr 8 bufpwr bufgnd digifpwr params: voltage=5.7v
  rextcl1 4 15 6.7meg
  rextcl2 5 15 6.7meg
* stanby current
  gp 15 DGND table {v(15)} (0 0) (6 5m)
  v_clkset 7 DGND pulse(1 3 .1ns
+ {period-deadtime-2*deadtime/100} {deadtime} {deadtime/100} {period} )
  u99 BUF bufPWR DGND dclk 3 d0_gate io_std
  x15 7 dclk DPWR DGND gen_clk 
* current limit section
  ecurlim 909 DGND table {((v(4)-.2)-v(5))*1200} (0 0) (5 5)
  rlim 909 911 43k
  qclim 9 911 DGND q_pwm
  rext 16 0 1G
  rout 116 16 1
  e18 116 0  table={v(15)} (0 0) (6 5)
  x91 116 55 DPWR DGND uvsch 
  sreset1 9 DGND 55 DGND sreset
.model sreset vswitch (ron=500 roff=100meg von=2 voff=1.9)
  x6 1 2 9  DPWR DGND erramp
  o6 9 7 compmod dgtlnet=39 io_std
.model compmod doutput(
+ s0name=0 s0vlo=-15 s0vhi=0
+ s1name=1 s1vlo=  0 s1vhi=7 )
  un1 and(2) DPWR DGND 510 39 4110 d0_gate io_std
  uinv inv DPWR DGND 10 510 dshutd io_std
  uinvd1 inv DPWR DGND 4110 4113 delgate io_std ; organizes the delay through cl
  uinvd2 inv DPWR DGND 4113   40 delgate io_std ; comparator
.model dshutd  ugate(tplhty=100ns, tphlty=100ns)
.model delgate ugate(tplhty= 62ns, tphlty= 62ns)
  eintern 115 0 15 0 1
  x1 115  dclk 40 31 32  DPWR DGND log1524b 
  x2  31 32 12 13 11 14 DPWR DGND ppout 
.ends
*+----------------------------------------------------------------------------
*|* POWER SUPPLY CONTAINING SG1524B
*|*
*|* THE FOLLOWING LINES CONFIGURE A BUCK REGULATOR AROUND A 1524B
*|* AND DEMONSTRATES THE USE OF THE 1524B MACROMODEL.
*|
*|.LIB "swit_reg.lib"
*|.LIB "digital.lib"
*|
*|.IC V(711)=4.8                ; INITIALIZE THE OUTPUT TO 5 VOLTS 
*|                              ; (CLOSE TO STEADY)
*|
*|VIN 15 0 20                   ; INPUT VOLTAGE SET TO 15 VOLTS
*|RLOAD 711 0 5                 ; 1.25A LOAD CURRENT AT OUTPUT 
*|UPRS STIM(1,1) $G_DPWR $G_8 10 IO_STM 0S 0    ; DIGITAL SHUTDOWN 
*|                                              ; SIGNAL DISABLED
*|VEMMITS EMMITS 0 0            ; TIE THE EMITTERS OF THE OUTPUT DRIVERS 
*|                              ; TO GND
*|VREF 2 0 2.5                  ; REFERENCE INPUT TO +IN OF ERROR AMP
*|X8  12 711 1 15  BUCK         ; CALL TO BUCK CCT
*|V4 4 0 PULSE(0 1 6MS 1U 1U 1M 1)             ; CURRENT OVERLOAD 
*|                                             ; SHUTDOWN TEST
*|VCLIM  5 0 0                  ; -IN OF CURRENT LIMIT AMP GNDED
*|RCOMP 50 0 20K                ; COMPENSATION RESISTOR
*|CCOMP 9 50 100N               ; COMPENSATION CAPACITANCE
*|
*|X1  1 2 3 4 5 7 0 9 10 EMMITS 12 12 EMMITS 15 16  SG1524B
*|+ PARAMS: PERIOD=22U DEADTIME=0.5U
*|
*|* BUCK CONVERTER
*|.SUBCKT BUCK 7 5 21 1
*|R1   2 7 150
*|Q1   4 2 1  QX2
*|C1   5 88    4840UF
*|RZERO 88 0 .0002
*|RSNUB 4 5 1.5K
*|L1   4 5    500UH
*|D1   0 4    DX
*|RO1 5 21   10
*|RO2 21 0  10
*|.ENDS
*|
*|.MODEL DX     D(IS=0.1P RS=16 CJO=2P TT=12N BV=100 IBV=0.1P)
*|.MODEL QX2    PNP(IS=1.34F XTI=3 EG=1.11 VAF=74.03 BF=65.62 NE=1.208
*|+             ISE=19.48F IKF=5.385 XTB=1.5 BR=9.715 NC=2 ISC=0 IKR=0 RC=1
*|+             CJC=1.393P MJC=.3416 VJC=.75 FC=.5 CJE=2.01P MJE=.377 VJE=.75
*|+             TR=.1N TF=408.8P ITF=.6 VTF=1.7 XTF=3 RB=10)
*|
*|.TRAN 10U 5MS 
*|.PROBE V(711) V(1) I(L1) V(7) D(3) V(12) V(10) V(4)
*|.END
*+----------------------------------------------------------------------------
*$


*** SG1525 ***

* The following model for the 1525 was obtained by consulting the data sheets
* and corresponding with Silicon General.  A number of simplifications were
* made to speed up the model, among these we have:
* (a) replaced th oscillator with ideal voltage sources,
* (b) simplified the output stage (only two bipolars per output driver),
* (c) the sync pin is ignored (can drive clock directly if needs be),
* (d) made the shutdown pin respond to digital stimulus, and
* (e) used digital simulation for the internal logic.

* The impact of that these simplifications must be considered in the context
* of the parameters of the circuit, and the circuit being examined.  The
* above list might change as we get feedback.

.subckt SG1525  ; note: the node numbers are equivalent to chip pinout
+  1    ; - input of error amp
+  2    ; + input of error amp
+  4    ; oscillator output
+  5    ; ramp output
+  8    ; soft start pin
+  9    ; compensation pin
+ 10    ; shutdown pin
+ 11    ; output A
+ 12    ; ground
+ 13    ; collector of the output drivers
+ 14    ; output B
+ 15    ; vin
+ 16    ; vref
+ params:
+ period   = 25us ; internal clock period
+ deadtime = 0.5us ; internal clock deadtime

* Pin  3 (sync) NOT USED due to (a) above. 
* Pin  6 (oscillator time resistor) NOT INCLUDED due to (a) above.
* Pin  7 (discharge resistor pin) NOT INCLUDED due to (a) above.

  xdigpwr 12 DPWR DGND DIGIFPWR

  v_clkset 5 DGND  pulse(0.9 3.3 .1ns
+ {period-deadtime-2*deadtime/100} {deadtime} {deadtime/100} {period} )
  u99 BUF DPWR DGND dclk 4 d0_gate io_std
  x15 5 dclk  DPWR DGND gen_clk 
  uinvds1 inv DPWR DGND    10 1110 delgate io_std       ; organizes the delay
  uinvds2 inv DPWR DGND  1110 1010 delgate io_std       ; through loop
  .model dshutd  ugate(tplhty=2ns, tphlty=2ns)

.model delgate ugate(tplhty=60ns, tphlty=60ns)
  uinvd1 inv DPWR DGND   22 2220 dshutd io_std  ; organizes the delay
  uinvd2 inv DPWR DGND 2220 2222 dshutd io_std  ; through loop
  v16 26 DGND 5.1
  r16 16 DGND 1G
  rser1 26 16 1
*model standby current
  gp 15 DGND table {v(15)} (0 0) (8 14m)        ; 0mA at 0V, 14mA at 8V
* erramp
  x4 1 2 60 9 DPWR DGND eamp3 
* soft st section
  x1 5 60 8 22  DPWR DGND softst
  ustst stim(1,1) DPWR DGND  57 io_stm 0s 0 1us 1
* toggle flip flop
  uhigh stim(1,1) DPWR DGND  51 io_stm 0s 1
  u10 dff(1) DPWR DGND  51,57,dclk,21 20 21 d0_eff io_std
  x16 8 713 1010  DPWR DGND uvlock 
  ouvlock 15 DGND uvl dgtlnet=713 io_std
.model uvl doutput(
+ s0name=0 s0vlo= 7 s0vhi=50
+ s1name=1 s1vlo= 0 s1vhi=7.2 )
  eintern 115 DGND 15 DGND 1
  roc4 DPWR 7114 10
  roc3 DPWR 7113 10
  roc1 115 7111 10
  roc2  115 7112 10
  u1 nor(5)  DPWR DGND 713 20 dclk 77 1010 7111 d_00 io_pwm_oc
  u2 nor(5)  DPWR DGND 713 21 dclk 77 1010 7112 d_00 io_pwm_oc
  u3 or(5)   DPWR DGND 713 20 dclk 77 1010 7113 d_00 io_pwm_oc
  u4 or(5)   DPWR DGND 713 21 dclk 77 1010 7114 d_00 io_pwm_oc

* set-dominant latch
  u5 srff(1) DPWR DGND  51 51 51 2222 101 77 78 d0_gff io_dft
  u6 inv DPWR DGND dclk 100 d0_gate io_std
  u7 nor(2) DPWR DGND 100 2222 101 d0_gate io_std

  rblim1 7111 731 900
  rblim2 7112 732 900
  rblim3 7113 733 1.2k
  rblim4 7114 734 1.2K
  qo1 735 731 11 q_pwm1
  qo2 735 732 14 q_pwm1
  qo3  11 733 DGND q_pwm1
  q04  14 734 DGND q_pwm1
  vdrop 13 735 1
.model sw iswitch (ron=1 roff=1e8 ion=400e-3 ioff=350e-3)
.model q_pwm1    npn(is=1.34f bf=65.62 ikf=.5385 rc=9
+               cjc=1.393p mjc=.3416 vjc=.75 cje=2.01p mje=.377 vje=.75
+               tf=408.8p rb=10)
.ends
*+----------------------------------------------------------------------------
*|* POWER SUPPLY CONTAINING SG1525
*|*
*|* THE FOLLOWING LINES DEMONSTRATE A BUCK REGULATOR USING THE SG1525 MODEL.
*|
*|.LIB 
*|
*|VREF 2 0 2.5          ; SET UP REFERENCE VOLTAGE
*|CCOMP 9 50 500P       ; COMPENSATION CAPACITANCE
*|RCOMP 50 0 2K         ; COMPENSATION RESISTANCE
*|X8  13 711 1 15  BUCK ; CALL TO BUCK SUBCKT
*|CSS 8 0 100P          ; SOFT-START CAPACITANCE
*|VIN 15 0 20           ; SUPPLY VOLTAGE
*|V11 11 0 0            ; GND OUTPUT A
*|V14 14 0 0            ; GND OUTPUT B
*|VSHUT 10 0 0          ; DISABLE SHUTDOWN
*|
*|X1 1 2 4 5 8 9  10 11 0 13 14 15 16 SG1525
*|+ PARAMS: PERIOD=25U DEADTIME=0.5U
*|
*|* BUCK CONVERTER
*|.SUBCKT BUCK 7 5 21 1
*|* 7=VC
*|* 5=OUT
*|* 21=FEEDBACK
*|* 1=VIN
*|
*|R1   2 7 150
*|R2   1 2 50
*|Q1   4 2 1  QX2
*|C1   5 88    200UF
*|RZERO 88 0 .0002
*|RSNUB 4 5 1.5K
*|L1   4 5    500UH
*|D1   0 4    DX
*|RO1 5 21   10
*|RO2 21 0  10
*|.ENDS
*|
*|.MODEL DX     D(IS=0.1P RS=16 CJO=2P TT=12N BV=100 IBV=0.1P)
*|.MODEL QX2    PNP(IS=1.34F XTI=3 EG=1.11 VAF=74.03 BF=65.62 NE=1.208
*|+             ISE=19.48F IKF=5.385 XTB=1.5 BR=9.715 NC=2 ISC=0 IKR=0 RC=1
*|+             CJC=1.393P MJC=.3416 VJC=.75 FC=.5 CJE=2.01P MJE=.377 VJE=.75
*|+             TR=.1N TF=408.8P ITF=.6 VTF=1.7 XTF=3 RB=10)
*|
*|.TRAN 50U 1500U
*|.PROBE V(711) V(5) V(9)
*|* V(711)=OUTPUT, V(5)=RAMP, V(9)=COMP
*|.END
*+----------------------------------------------------------------------------
*$
*
* MANUFACTURERS PART NO. = SG1525AJ  (SILICON GENERAL)  
* SUBTYPE: REGULATOR  
*******************************************************************************  
* THIS FILE CONTAINS 1 MODEL OF THE SG1525AJ PULSE WIDTH MODULATOR, 
* PRERAD 25C  
*  
***************************************************  
*  
* THIS MODEL HAS BEEN TESTED IN A PUSH-PULL QUADRUPLER FIRESET CKT  
* AND IN A BUCK REGULATOR CONFIGURATION.  MEASURED VS SIMULATED DATA 
* WAS  COMPARED AND THE MODEL WORKS WELL OVER ALL FREQUENCIES.  
*  
******USE THE FOLLOWING .OPTION STATEMENT WHEN USING THIS MODEL.  
*SET ITL5=0 FOR INFINITE NUMBER OF ITERATIONS. THE DEFAULT IS 5000.  CKTS  
***WITH TRANSFORMERS OR OTHER REGULATORS REQUIRE THIS.  
*  
.OPTIONS ITL5=0  
*****  
*  
* USE THE FOLLOWING .IC CONDITION IN YOUR CKT NETLIST.  IT SETS THE INITIAL  
* CONDITIONS FOR THE TOGGLE FLIP-FLOP.  THE OUTPUT OF THE TOGGLE FLIP-FLOP  
***IS UNSTABLE W/OUT THESE CONDITIONS.  
******  
*****  
**X5 IS THE SUBCKT CALL # FOR THE TOGGLE FLIP-FLOP WITHIN SUBCKT SG1525A  
*        |            |  
.IC V(X1.X5.2)=5 V(X1.X5.3)=0  
*     |            |  
* X1 IS SUBCKT CALL # FOR SG1525A - ASSUMES YOU LABEL IT X1 IN YOUR NETLIST  
* CHANGE THIS PART OF THE NODE # TO CORRELATE TO THE SUBCKT CALL # THAT YOU  
* ASSIGN SUBCKT SG1525A IN YOUR CKT NETLIST  
*  
.SUBCKT SG1525A/25C 18 6  1  2   9  111 40  15  114  16 116  
+ params:  period = 25u   deadtime = 0.5u
*************      -IN |  |  |   |   |   |   |   |   |   |  
*****************     +IN |  |   |   |   |   |   |   |   |  
********************     OSC |   |   |   |   |   |   |   |  
***********************     RAMP |   |   |   |   |   |   |  
**************************     COMP  |   |   |   |   |   |  
*******************************     OUTA |   |   |   |   |  
************************************     GND |   |   |   |  
***************************************     VC   |   |   |  
******************************************     OUTB  |   |  
***********************************************     VIN  |  
**************************************************     VREF  
* SYNC - PIN3 IS NOT USED  
**PINS 5,6, AND 7 ARE COMBINED INTO PIN2, THE RAMP.  THERE IS NO NEED TO  
**CONNECT CAPACITORS AND RESISTORS AT THESE PINS FOR RAMP GENERATION 
* BECAUSE  THIS WAVEFORM IS DEFINED BY THE USER IN THE OSCILLATOR SECTION
* THROUGH TWO MODEL PARAMETERS:  PERIOD, DEADTIME.
* THE  IDEAL OSCILLATOR IN THIS MODEL IS DEFINED BY TWO VOLTAGE PULSE 
* WAVEFORMS  (VPULSE).  ONE SETS THE OSCILLATOR OUTPUT AND THE OTHER 
* DEFINES THE SAWTOOTH  WAVEFORM.  PLEASE SEE THE OSCILLATOR SUBCKT 
* SECTION FOR INSTRUCTIONS ON  DEFINING THESE WAVEFORMS.  
**PIN8, SOFT-START, AND PIN10, SHUTDOWN, ARE NOT USED IN THIS MODEL  
**PIN9, THE COMPENSATION PIN, REQUIRES TWO RESISTORS IN PARALLEL WHEN 
* USED  BECAUSE PSPICE GENERATES AN ERROR MESSAGE IF THERE ARE NOT TWO 
* CONNECTIONS  AT EVERY NODE.  
r9a 9 0 1G
r9b 9 0 1G
X1 1 2 40 OSC  PARAMS: PERIOD={PERIOD} DEADTIME={DEADTIME} 
X4 5 1 11 10 4 40 SR  
X5 1 13 12 4 40 TFF_SG1525A
X8 16 15 116 11 1 13 20 111 40 PWMOUT  
X9 16 15 116 11 1 12 20 114 40 PWMOUT  
EOPAMPUVL 20 40 25 16 1 ;UNDER VOLTAGE LOCKOUT  
VIN25 25 40 8.7V  
RIN25 25 40 1MEG  
VFIVE 4 40 5V ;POWER TO INTERNAL CKTS  
VREF 116 40 5.1V ;OUTPUT OF REFERENCE SECTION  
EOPAMP1  3 40 6 18 10K ;THIS IS THE ERROR AMPLIFIER  
RIN6 6 40 10E12  
RIN18 18 40 10E12  
EOPAMP2  5 40 2 3 1 ;THIS IS THE COMPARATOR  
RIN2 2 40 10E12  
RIN3 3 40 10E12  
*********************************************  
.ENDS SG1525A/25C  
*********************************************  
.SUBCKT OSC    1         2       40   PARAMS: PERIOD=25U DEADTIME=0.5U
*           OSC OUT     RAMP    GROUND  
*  
* THE USER DEFINES THE OSCILLATOR OUTPUT WAVEFORM AS A PULSE TRAIN.  THIS 
* PULSE TRAIN IS USED FOR INTERNAL SIGNALS TO THE TOGGLE FLIP-FLOP, SR 
* LATCH, AND  4 INPUT NOR GATES OF THE OUTPUT SECTION.  
* THE USER DEFINES THE CAPACITOR RAMP WAVEFORM WHICH IS USED AS AN 
* INTERNAL  SIGNAL TO THE PULSE WIDTH MODULATOR COMPARATOR.  
*  
* SET THE OSC PULSE WITH THE VOSC STATEMENT:  
*  
* T=PERIOD   D=DEADTIME    DELAY=T-D  
*  
* I.E. PULSE(0      5    T-D    20E-9  20E-9  D-(TR & TF)   T ) OSC WAVEFORM  
*            |      |     |      |      |        |          |  
*         (VBEGIN  VEND  DELAY  TRISE  TFALL  PULSEWIDTH   PERIOD)  
*  
*  
VOSC 1 40 PULSE(0 5  {period-deadtime} 20N 20N {deadtime-40n} {period} )  
*  
* SET THE RAMP PULSE WITH THE VCAP STATEMENT:  
*  
* T=PERIOD   D=DEADTIME    RISETIME OF SAWTOOTH = T-D  
*  
* PULSE(1      3     0      T-D   D-(5E-9)    5E-9        T) CAP VOLT WAVEFORM  
*       |      |     |       |       |         |          |  
*    (VBEGIN  VEND  DELAY  TRISE  TFALL    PULSEWIDTH   PERIOD)  
*  
*  
VCAP 2 40 PULSE(1 3.5 0 {period-deadtime} {deadtime-5n} 5n {period} )  
R1 1 40 1E6  
R2 2 40 1E6  
.ENDS OSC  
**********************************************  
*-----------------------------------------------------------------------------  
.SUBCKT SR    1     4     5   6     10    40  
*             S     R     Q  QBAR   VCC   GROUND  
X1 1 2 3 10 40 NAND  
X2 3 4 2 10 40 NAND  
X3 3 6 5 10 40 NAND  
X4 5 2 6 10 40 NAND  
R6 6 40 10E6  
C3 3 40 0.5E-12 IC=0.5  
CQ 5 40 0.5E-12 IC=5  
C6 6 40 0.5E-12 IC=0.5  
.ENDS SR  
**********************************************  
* NAND GATE USING TWO DIODES AND A TRANSISTOR  
.SUBCKT NAND 1  2  3  4  40  
************IN  |  |  |  |  
************** IN  |  |  |  
******************OUT |  |  
******************** VCC |  
*********************** GND  
D1 8 6 D1  
D2 8 7 D1  
Q1 9 11 40 NP; Q222200 CAUSES OSCILLATIONS AT 250HZ ; USE NP HERE  
R1 4 8 1E3  
R2 4 9 1E3  
R3 10 11 1E3  
R4 1 40 1E6  
R5 2 40 1E6  
E1 6 40 1 40 1  
E2 7 40 2 40 1  
E3 10 40 8 40 0.75  
E4 20 40 9 40 1  
R20 20 12 1E3  
C12 12 40 1E-12  
E5 30 40 12 40 1  
ROUT 30 3 40  
.ENDS NAND  
**********************************************  
.SUBCKT TFF_SG1525A 1 10 20 50 40  
*********** |  |  |  |  |  
*********** |  |  |  | GND  
*********** |  |  | VCC  
*********** |  |  QNOT  
*********** |  Q  
*********** INPUT  
****************************  
**** 2 INPUT NAND2 GATE ****  
****************************  
R3 2 50 1E3  
R4 50 3 1E3  
R5 2 6 10E3  
R6 3 5 10E3  
Q1 2 5 40 Q222200  
Q2 3 6 40 Q222200  
D1 5 7 D1  
D2 6 8 D1  
C1 1 7 100E-12  
C2 1 8 100E-12  
R1 2 7 10000  
R2 3 8 10000  
X1 2 2 10 50 40 NAND  
*NAND AS INVERTER TO BUFFER OUTPUT.  
X2 3 3 20 50 40 NAND  
*NAND AS INVERTER TO BUFFER OUTPUT.  
.ENDS TFF_SG1525A
******************************  
**      SG1525A OUTPUT STAGE (X7, X8)     **  
********************************************  
.SUBCKT PWMOUT 1 2 17 12 13 14 20 5 40  
**             | | |  |  |  |  |  | |  
**             | | |  |  |  |  |  | GND  
**             | | |  |  |  |  |  OUTPUT  
**             | | |  |  |  |  UVL  
**             | | |  |  |  Q  
**             | | |  |  OSC  
**             | | |  NOT PWM  
**             | | VREF  
**             | VC  
**             VIN  
*****************************************  
I3MA 1 6 3MA  
I3MA2 1 3 3MA  
RI3 1 6 10MEG  
RI32 1 3 10MEG  
Q1 8 9 40 Q222200  
Q2 8 10 40 Q222200  
Q3 8 11 40 Q222200  
Q4 6 8 40 Q222200  
Q5 3 6 7 Q222200  
Q6 2 3 4 Q222200  
Q7 2 4 5 Q222200  
Q8 5 7 40 Q222200  
Q9 8 20 40 Q222200  
R1 4 5 5K  
R2 7 40 2K  
R3 12 9 10K  
R4 13 10 10K  
R5 14 11 10K  
D1 4 3 D1  
D2 5 3 D1  
IREF 17 8 500UA  
RIREF 17 8 10MEG  
.ENDS  PWMOUT  
********************* MODELS FOR THE PWM SUBCKTS  ******  
.MODEL NP NPN(
+         IS = 1E-16
+         BF = 50
+         NF = 1
+        VAF = 50
+        IKF = 9.9999E+13
+        ISE = 0
+         NE = 1.5
+         BR = 1
+         NR = 1
+        VAR = 9.9999E+13
+        IKR = 9.9999E+13
+        ISC = 0
+         NC = 2
+         RB = 70
+        IRB = 9.9999E+13
+        RBM = 0
+         RE = 0
+         RC = 40
+        CJE = 0.9PF
+        VJE = .75
+        MJE = .33
+         TF = 0.1NS
+        XTF = 0
+        VTF = 9.9999E+13
+        ITF = 0
+        PTF = 0
+        CJC = 1.5PF
+        VJC = 0.85
+        MJC = .33
+       XCJC = 1
+         TR = 10NS
+        CJS = 2PF
+        VJS = .75
+        MJS = 0
+        XTB = 0
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+ )
*
.MODEL D1 D(
+         IS = 1E-14
+         RS = 40
+          N = 1
+         TT = 0.1NS
+        CJO = 0.9PF
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
*BETTER SWITCHING TIME W/2N2222 THAN QNOM FROM LIBRARY-THE DEFAULT IS 0 - 
* TOO  FAST  
.MODEL Q222200 NPN      (
+         IS = 3.97589E-14
+         BF = 195.3412
+         NF = 1.0040078
+        VAF = 53.081
+        IKF = 0.976
+        ISE = 1.60241E-14
+         NE = 1.4791931
+         BR = 1.1107942
+         NR = 0.9928261
+        VAR = 11.3571702
+        IKR = 2.4993953
+        ISC = 1.88505E-12
+         NC = 1.1838278
+         RB = 56.5826472
+        IRB = 1.50459E-4
+        RBM = 5.2592283
+         RE = 0.0402974
+         RC = 0.4208
+        CJE = 2.56E-11
+        VJE = 0.682256
+        MJE = 0.3358856
+         TF = 3.3E-10
+        XTF = 6
+        VTF = 0.574
+        ITF = 0.32
+        PTF = 25.832
+        CJC = 1.40625E-11
+        VJC = 0.5417393
+        MJC = 0.4547893
+       XCJC = 1
+         TR = 3.2E-7
+        CJS = 0
+        VJS = .75
+        MJS = 0
+        XTB = 1.6486
+         EG = 1.11
+        XTI = 5.8315
+         KF = 0
+         AF = 1
+         FC = 0.83
+ )
*$